US04900744
8-(4,5-Diphenyl-1H-imidazol-2-ylthio)octanoic acid ethyl ester
To a solution of 7.57 g (0.03 mole) 4,5-diphenyl-2-imidazolethiol in 75 ml dimethylformamide was added, dropwise, 7.23 g (0.03 mole) ethyl-8-bromooctanoate in 25 ml dimethylformamide. The reaction mixture was stirred at reflux under nitrogen overnight. The cooled solution was poured into 5% sodium bicarbonate and ice and then extracted with ethyl acetate. The organic layer was backwashed with 5% sodium bicarbonate, water, and saturated sodium chloride solution, then dried over magnesium sulfate and the solvent was removed under vacuum. The residue was chromatographed using hexane:ethyl acetate (7:3). The resulting solid was recrystallized from ethanol and triturated with hexane to give 9.12 g (0.022 mole) of the title compound as a white solid, mp=77°-79° C. H1NMR(DMSO-d6): δ12.6(s,1H), 7.7-7.1(m,10H), 4.0(q,2H,J=8Hz), 3.1(t,2H,J=7Hz), 2.3(t,2H,J=17Hz), 1.8-1.1(m,13H).

reactant | 4,5-diphenyl-2-imidazolethiol | 0.03 mole, 7.57 g | C1(=CC=CC=C1)C=1N=C(NC1C1=CC=CC=C1)S | C15H12N2S
reactant | ethyl-8-bromooctanoate | 0.03 mole, 7.23 g | C(C)OC(CCCCCCCBr)=O | C10H19BrO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 8-(4,5-Diphenyl-1H-imidazol-2-ylthio)octanoic acid ethyl ester | 0.022 mole, 9.12 g | C(C)OC(CCCCCCCSC=1NC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)=O | C25H30N2O2S
